US06891066B2
2-[4-(3-Amino-1-propynyl)-2-fluoroanilino]-3,4-difluoro-N-(2-hydroxyethoxy)benzamide
The title compound was prepared by Sonogashira reaction of propargyl amine and 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide by the general procedure of Example 1, Step A. The orange oil resulting from workup was purified by chromatography on silica gel (10% MeOH/CH2Cl2 as eluant), to give 2-[4-(3-amino-1-propynyl)-2-fluoroanilino]-3,4-difluoro-N-(2-hydroxyethoxy)benzamide as a pale orange solid (100%); m.p. (Et2O) 72-76° C. 1H NMR [400 MHz, (CD3)2SO] δ 9.14 (v br s, 1 H), 7.49-7.44 (m, 1 H), 7.21 (dd, J=12.3, 1.7 Hz, 1 H), 7.24-7.14 (m, 1 H), 7.08 (dd, J=8.4, 1.6 Hz, 1 H), 6.77 (ddd, J=8.8, 8.8, 5.1 Hz, 1 H), 5.45 (br s, 2 H), 3.83 (t, J=4.8 Hz, 2 H), 3.55 (t, J=5.0 Hz, 2 H), 3.41-3.32 (m, 2H, obscured by H2O). Not all exchangeable protons observed. CRL10671. Await HRMS. Anal. calcd. for C28H16F3N3O3: C, 57.0; H, 4.3; N, 1.1. Await Found. HRMS (EI) calcd for C18H16F3N3O3 379.1144 (M+), found 379.1140.

reactant | propargyl amine | C(C#C)N | C3H5N
reactant | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-N-(2-hydroxy-ethoxy)-benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)I)F | C15H12F3IN2O3
product | 2-[4-(3-amino-1-propynyl)-2-fluoroanilino]-3,4-difluoro-N-(2-hydroxyethoxy)benzamide | 100% | NCC#CC1=CC(=C(NC2=C(C(=O)NOCCO)C=CC(=C2F)F)C=C1)F | C18H16F3N3O3
